US07338958B2
Production of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-cyclopropyl-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide
95 mg (0.32 mmol) of (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol is dissolved in 2 ml of acetonitrile and mixed with 116 mg (0.32 mmol) of (RS)-S-(4-aminophenyl)-S-cyclopropyl-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide. After 0.08 ml of an approximately 4N solution of HCl in dioxane and 0.08 ml of water are added, the mixture is heated in a sealed vessel for 16 hours to 75° C. The suspension is filtered, and the filtrate is separated by flash chromatography (dichloromethane-dichloromethane/ethanol 95:5, 15 ml/min). The fractions, 43-51 min, contain 50 mg (25% of theory) of the desired product.

reactant | (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol | 0.32 mmol, 95 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](C(C)(O)C)C | C9H13BrClN3O
reactant | (RS)-S-(4-aminophenyl)-S-cyclopropyl-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide | 0.32 mmol, 116 mg | NC1=CC=C(C=C1)S(=O)(=NS(=O)(=O)CC[Si](C)(C)C)C1CC1 | C14H24N2O3S2Si
reactant | HCl | Cl | ClH
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.08 ml | O | H2O
product | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-cyclopropyl-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NS(=O)(=O)CC[Si](C)(C)C)C1CC1)N[C@@H](C(C)(C)O)C | C23H36BrN5O4S2Si
